US07307075B2
4-[3-(4-Butyl-piperidin-1-yl)-propyl]-6-methyl-4H-benzo[1,4]oxazin-3-one 64-(LHY-89-6)
6-Methyl-4H-benzo[1,4]oxazin-3-one (82 mg, 0.5 mmol), 1-chloro-3-iodopropane (50 μl, 0.5 mmol) and Cs2CO3 (163 mg, 0.5 mmol) in acetonitrile (2 mL) were shaken at 50° C. for 24 h then the reaction mixture was concentrated in vacuo. The product (4-[3-chloropropyl]-6-methyl-4H-benzo[1,4]-oxazin-3-one) was purified on an Isco CombiFlash Sq 16× (4 g silica column, eluting 0-20% ethyl acetate in heptanes) then dissolved in acetonitrile (2 mL). K2CO3 (85 mg, 0.5 mmol) and 4-butylpiperidine (80 μl, 0.5 mmol) were added. The reaction mixture was shaken at 60° C. for 16 h then colled to room temperature. Dichloromethane (2 mL). and PS-isocyanate (loading 1.47 mmol/g, 100 mg) were added. The mixture was filtered after 5 h and the organic layer was loaded onto a Varian SCX ion exchange column. The column was washed with methanol (2×5 mL) then the product was eluted off the column using 10% ammonium hydroxide in methanol (6 mL). The solute was concentrated in vacuo to give the title product. Yield: 100 mg, 58% HPLC-MS: M+1+=345.5 (UV/MS(%)=99/99). 1H NMR (400 MHz, CDCl3): δ=0.89 (3H, t), 1.15-1.30 (9H, m), 1.65 (2H, broad d), 1.81-1.89 (4H, m), 2.30 (3H, s), 2.36 (2H, t), 2.86 (2H, broad d), 3.94 (2H, dd), 4.51 (2H, s), 6.76 (1H, dd), 6.84 (1H, d), 6.86 (1H, d). 13C NMR (CDCl3): δ 14.3, 21.3, 23.1, 25.1, 29.2, 32.8 (2C), 36.0, 36.5, 39.8, 54.4 (2C), 56.1, 67.9, 115.8, 116.9, 124.3, 128.6, 132.5, 143.4, 164.6.

reactant | 6-Methyl-4H-benzo[1,4]oxazin-3-one | 0.5 mmol, 82 mg | CC=1C=CC2=C(NC(CO2)=O)C1 | C9H9NO2
reactant | 1-chloro-3-iodopropane | 0.5 mmol, 50 μl | ClCCCI | C3H6ClI
reactant | Cs2CO3 | 0.5 mmol, 163 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | K2CO3 | 0.5 mmol, 85 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-butylpiperidine | 0.5 mmol, 80 μl | C(CCC)C1CCNCC1 | C9H19N
reactant | isocyanate | 100 mg | [N-]=C=O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | Dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-[3-(4-Butyl-piperidin-1-yl)-propyl]-6-methyl-4H-benzo[1,4]oxazin-3-one | C(CCC)C1CCN(CC1)CCCN1C(COC2=C1C=C(C=C2)C)=O | C21H32N2O2
